US05981572
N-[3-(5-Bromo-7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide
N-Bromosuccinimide (569 mg) was added to a solution of N-[3-(7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide (690 mg) in glacial acetic acid (15 ml) at room temperature under nitrogen and the mixture stirred for 48 h. The solution was evaporated and the residue partitioned between sodium carbonate (2N; 20 ml) and ethyl acetate (20 ml). The combined organic extracts were washed with brine (25 ml) and dried (MgSO4). The solvent was evaporated and the residue purified by column chromatography. Eluting with dichloromethane/methanol 50:1 gave the title compound as a colourlss solid (644 mg)

reactant | N-Bromosuccinimide | 569 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-[3-(7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | 690 mg | FC1=CC=C(C=2CCOC21)CCCNC(C)=O | C13H16FNO2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | N-[3-(5-Bromo-7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | BrC=1C=C(C2=C(CCO2)C1CCCNC(C)=O)F | C13H15BrFNO2
